US09145438B2
Step 4: 2-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)propyl)isoindoline-1,3-dione
A mixture of γ-bromopropylphthalimide (2.37 g, 8.85 mmol), tetra-n-butylammonium iodide (0.234 g, 0.632 mmol), N,N-diisopropylethylamine (1.40 mL, 8.04 mmol) and N-(2,4-dimethoxybenzyl)-7-((3aR,4R,6R,6aR)-6-((isopropylamino)methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (3.42 g, 6.32 mmol) was taken up in propanenitrile (25 mL) and was heated at 95° C. After 48 h at 95° C., HPLC indicated that the reaction was nearly complete. The reaction mixture was cooled to room temperature, the mixture was diluted with 200 mL ethyl acetate and washed with two 100 mL portions of H2O and 100 mL brine. The organic phase was dried over Na2SO4, filtered and concentrated to yield a glass. The crude material was purified by flash chromatography (250 g silica gel, 2-4% 7N NH3 in CH3OH/CH2Cl2) to yield the title compound (3.12 g, 72%) as a foam: MS (ESI+) for C37H44N6O7 m/z 685.2 (M+H)+, (ESI−) for C37H44N6O7 m/z 729 (M+HCO2)−; HPLC purity 99% (ret. time, 3.17 min).

reactant | γ-bromopropylphthalimide | 8.85 mmol, 2.37 g | BrCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C11H10BrNO2
reactant | N,N-diisopropylethylamine | 8.04 mmol, 1.40 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(2,4-dimethoxybenzyl)-7-((3aR,4R,6R,6aR)-6-((isopropylamino)methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 6.32 mmol, 3.42 g | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3O[C@@H]([C@H]2OC(O[C@H]23)(C)C)CNC(C)C)C=CC(=C1)OC | C26H35N5O5
catalyst | tetra-n-butylammonium iodide | 0.632 mmol, 0.234 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | propanenitrile | 25 mL | C(CC)#N | C3H5N
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)propyl)isoindoline-1,3-dione | 3.12 g, 72% | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3O[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CN(CCCN2C(C3=CC=CC=C3C2=O)=O)C(C)C)C=CC(=C1)OC | C37H44N6O7
